US07745472B2
Benzoic Acid 5-{[(4-cyano-phenyl)-[1,2,4]triazol-4-yl-amino]methyl}-2-fluoro-phenyl Ester (CAB02147)
Sodium, hydride (60%, 200 mg, 5.0 mmol) was added to a solution of 4-([1,2,4]triazol-4-ylamino)-benzonitrile (926 mg, 5.0 mmol) in DMF (20 mL) at r.t. The mixture was stirred for 1 h at this temperature and benzoic acid 5-bromomethyl-2-fluoro-phenyl ester (CAB02146, 1.55 g, 5.0 mmol) was added. The reaction mixture was stirred overnight and ethyl acetate (75 mL) and water (50 mL) were added. The mixture was transferred into a separation funnel and washed with water (2×50 mL) and brine (20 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography (EtOAc, Rf: 0.32) to give a white solid. Yield: 1.16 g (56%). 1H-NMR (400 MHz, CDCl3) δ=4.91 (s, 2H), 6.67 (d, J=9.0 Hz, 2H), 7.07 (ddd, J=8.2, 4.3, 2.0 Hz, 1H), 7.18 (dd, J=9.4, 8.6 Hz, 1H), 7.24 (dd, J=7.0, 2.3 Hz, 1H), 7.49-7.56 (m, 2H), 7.58 (d, J=9.0 Hz, 2H), 7.62-7.70 (m, 1H), 8.15-8.20 (m, 2H), 8.21 (s, 2H). LRMS (FAB+): 414.2 (100, [M+H]+).

reactant | Sodium | [Na] | Na
reactant | hydride | 5.0 mmol, 200 mg | [H-]
reactant | 4-([1,2,4]triazol-4-ylamino)-benzonitrile | 5.0 mmol, 926 mg | N=1N=CN(C1)NC1=CC=C(C#N)C=C1 | C9H7N5
reactant | benzoic acid 5-bromomethyl-2-fluoro-phenyl ester | 5.0 mmol, 1.55 g | BrCC=1C=CC(=C(C1)OC(C1=CC=CC=C1)=O)F | C14H10BrFO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
product | Benzoic Acid 5-{[(4-cyano-phenyl)-[1,2,4]triazol-4-yl-amino]methyl}-2-fluoro-phenyl Ester | C(#N)C1=CC=C(C=C1)N(N1C=NN=C1)CC=1C=CC(=C(C1)OC(C1=CC=CC=C1)=O)F | C23H16FN5O2
